US03959322
Mix 13β-methyl-3-hydroxygona-1,3,5(10),8,14-pentaen-17one with pyridine (3 cc) and acetic anhydride (1 cc) and keep at room temperature for 4 hours. Add ethanol (1 cc) and remove low-boiling material under reduced pressure (0.1 mm) to leave a red gum which crystallizes from a mixture of ethyl acetate and light petroleum. Recrystallize from methanol to obtain crystals of 13β-methyl-3-acetoxygona-1,3,5(10),8,14-pentaen-17-one, melting partially at 161°-166° with resolidification at about 220° and finally melting at 260°-265° (decomp.); infrared absorption peaks at 5.75 μ and 8.27 μ, with absence of an absorption band due to a hydroxy group; ultraviolet absorption peak at 307.5 mμ (ε24,000).

reactant | 13β-methyl-3-hydroxygona-1,3,5(10),8,14-pentaen-17one | C[C@]12C(CC=C2C2=C(CC1)C=1C=CC(=CC1CC2)O)=O | C18H18O2
reactant | acetic anhydride | 1 cc | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 3 cc | N1=CC=CC=C1 | C5H5N
product | 13β-methyl-3-acetoxygona-1,3,5(10),8,14-pentaen-17-one | C[C@]12C(CC=C2C2=C(CC1)C=1C=CC(=CC1CC2)OC(C)=O)=O | C20H20O3
